US05830915
Methylphenyl-phosphinic chloride (361 mg, 2.07 mmol) is dissolved in dichloromethane (2.5 mL) and then cooled to 0° C. To this is added a solution of N-benzyl D-alanine methyl ester (400 mg, 2.07 mmol) and N-methyl morpholine (0.51 mL, 4.6 mmol) in dichloromethane (2.5 mL). A catalytic amount of 4-dimethylaminopyridine is then added to the stirring mixture. The reaction is stirred for 16 hours at room temperature, washed with water and brine, dried over sodium sulfate, and concentrated. The crude product is purified by silica gel flash chromatography (100% ethyl acetate) to give N-((R)-methylphenylphosphinyl)-N-benzyl-D-leucine methyl ester as an oil.

reactant | Methylphenyl-phosphinic chloride | 2.07 mmol, 361 mg | CP(=O)(C1=CC=CC=C1)Cl | C7H8ClOP
reactant | N-benzyl D-alanine methyl ester | 2.07 mmol, 400 mg | COC([C@H](NCC1=CC=CC=C1)C)=O | C11H15NO2
reactant | N-methyl morpholine | 4.6 mmol, 0.51 mL | CN1CCOCC1 | C5H11NO
reactant | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 2.5 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | N-((R)-methylphenylphosphinyl)-N-benzyl-D-leucine methyl ester | COC([C@H](N(CC1=CC=CC=C1)[P@](=O)(C1=CC=CC=C1)C)CC(C)C)=O | C21H28NO3P
